### PR TITLE
rt reply pop tweaks

### PR DESCRIPTION
**Pull request by mktnk3**
This PR contains some spec updates for `repplyPop` and the proof fixes

- use `updateReply` where possible
- contains Victor’s commit from #175: move `schedContextDonate` to just before `cleanReply`
- move `threadGet` to just before `schedContextDonate`

### CODE REVIEW

**Review by VictorPhan — APPROVED** [review]

File: proof/refine/ARM/Finalise_R.thy [hunk 1]
```diff
@@ -2983,10 +2983,9 @@ lemma replyPop_makes_unlive:
    replyPop rptr tptr
    \<lbrace>\<lambda>_. ko_wp_at' (Not \<circ> live') rptr\<rbrace>"
   apply (simp add: replyPop_def)
-  apply (wpsimp wp: replyUnlink_makes_unlive cleanReply_obj_at_next_prev_none
-                    hoare_vcg_if_lift threadGet_wp
+  by (wpsimp wp: replyUnlink_makes_unlive cleanReply_obj_at_next_prev_none
+                    hoare_vcg_if_lift
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Finalise_R.thy:2987]: indentation

**Review by MitchellBuckley — APPROVED** [review]
Great!

File: proof/refine/ARM/Ipc_R.thy [hunk 2]
```diff
@@ -1996,30 +1996,10 @@ lemma handleFaultReply_cur' [wp]:
...
-   apply (intro conjI impI; (solves wpsimp)?)
-   apply (wpsimp wp: set_reply_valid_objs')
-   apply (fastforce dest: reply_ko_at_valid_objs_valid_reply'
-                    simp: valid_reply'_def)
-  apply (wpsimp wp: replyUnlink_valid_objs')
-  done
+  unfolding replyRemove_def
+  by (wpsimp wp: updateReply_valid_objs'_preserved replyUnlink_valid_objs'
+                 hoare_vcg_if_lift hoare_drop_imps
+           simp: valid_reply'_def split_del: if_split)
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:2002]: Nice, much shorter!

**Review by corlewis — APPROVED** [review]

File: spec/haskell/src/SEL4/Object/Reply.lhs [hunk 3]
```diff
@@ -95,14 +95,13 @@ This module specifies the behavior of reply objects.
...
 >         scPtr <- return $ theHeadScPtr nextReplyPtrOpt
->         tcbScPtrOpt <- threadGet tcbSchedContext tcbPtr
->         when (tcbScPtrOpt == Nothing) $ schedContextDonate scPtr tcbPtr
 >         sc <- getSchedContext scPtr
 >         setSchedContext scPtr (sc { scReply = prevReplyPtrOpt })
 >         when (prevReplyPtrOpt /= Nothing) $ do
 >             prevReplyPtr <- return $ fromJust prevReplyPtrOpt
->             prevReply <- getReply prevReplyPtr
->             setReply prevReplyPtr (prevReply { replyNext = replyNext reply })
+>             updateReply prevReplyPtr (\reply -> reply { replyNext = replyNext reply })
```
Comment (VictorPhan) [inline spec/haskell/src/SEL4/Object/Reply.lhs:102]: Update the lambda naming to avoid conflict:
`>             updateReply prevReplyPtr (\replyPrev -> replyPrev { replyNext = replyNext reply })`

Comment (mktnk3) [reply spec/haskell/src/SEL4/Object/Reply.lhs:102]: ah, yes, that’s is correct. I’ll fix it up.

File: spec/haskell/src/SEL4/Object/Reply.lhs [hunk 4]
```diff
@@ -80,14 +80,14 @@ This module specifies the behavior of reply objects.
...
 >         scPtr <- return $ theHeadScPtr nextReplyPtrOpt
->         tcbScPtrOpt <- threadGet tcbSchedContext tcbPtr
->         when (tcbScPtrOpt == Nothing) $ schedContextDonate scPtr tcbPtr
 >         sc <- getSchedContext scPtr
 >         setSchedContext scPtr (sc { scReply = prevReplyPtrOpt })
 >         when (prevReplyPtrOpt /= Nothing) $ do
 >             prevReplyPtr <- return $ fromJust prevReplyPtrOpt
->             prevReply <- getReply prevReplyPtr
->             setReply prevReplyPtr (prevReply { replyNext = replyNext reply })
+>             updateReply prevReplyPtr (\replyPrev -> replyPrev { replyNext = replyNext reply })
```
Comment (corlewis) [inline spec/haskell/src/SEL4/Object/Reply.lhs:87]: tiniest of nitpicks: I like to keep them consistent, so I would prefer `prevReply` to match `prevReplyPtr` (or `replyPrev` and `replyPrevPtr`)
